US04226792
PREPARATION OF 3-NITROSALICYLAIDEHYDE
Salicylaldehyde (10 grams) is dissolved in acetic acid (50 grams) and nitrated with 10 ml. of red fuming nitric acid at 40°-45° C. The mixture is poured over ice and filtered. The solid product is a mixture of 3- and 5- nitrosalicylaldehyde. The isomers are separated by fractional recrystallization in acetic acid or by fractional recrystallization of their sodium salts in warm water, the 5-nitro isomer being less soluble in water than the 3-nitro isomer.

reactant | Salicylaldehyde | 10 grams | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 50 grams | C(C)(=O)O | C2H4O2
product | 3-NITROSALICYLAIDEHYDE | [N+](=O)([O-])C1=C(C(C=O)=CC=C1)O | C7H5NO4
